US04352815
A solution of 56.5 g of 2-amino-6-nitrobenzoic acid hydrochloride in 200 ml of demineralized water and 200 ml of tetrahydrofuran is cooled to 10° while stirring and treated with phosgene at 10°-30° for 1 hour, a precipitate resulting. The mixture is subsequently diluted with 300 ml of demineralized water and air is conducted through the suspension vigorously for about 3 hours (until the sample is negative for phosgene). The precipitate is filtered off, washed with water and dried in vacuo over phosphorus pentoxide. There is obtained 6-nitroisatoic acid anhydride as beige crystals of m.p. 220°-222° (decomposition).

reactant | 2-amino-6-nitrobenzoic acid hydrochloride | 56.5 g | Cl.NC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 6-nitroisatoic acid anhydride | [N+](=O)([O-])C=1C=CC=C2C1C(=O)OC(N2)=O | C8H4N2O5
